USRE033478
PREPARATION OF 2-(4-(3-FLUORO-5-CHLORO-2-PYRIDINYLOXY)PHENOXY)PROPIONIC ACID, METHYL ESTER
A solution of NaOH (2.7 g, 0.068 mol) in a few ml of water was added to 2-(4-hydroxyphenoxy)propionic acid (6.09 g, 0.033 mol in 55 ml DMSO and the mixture was stirred for 20 minutes under nitrogen. 5-Chloro-2,3-difluoropyridine (5.0 g, 0.033 mol) was added and the mixture was heated at 70° C. for 5 hours. The reaction was then poured over ice and extracted with CH2Cl2. The organic layer was washed with water, dried over Na2SO4 and the solvent removed by rotary evaporation. The residual oil was dissolved in 130 ml dry methanol, p-toluene sulfonic acid (0.5 g, 0.003 mmol) was added and the mixture was stirred at room temperature for 24 hours. The methanol was removed by rotary evaporation. The residue was taken up in ether, washed with dilute aqueous NaOH, and dried over Na2SO4. The ether was removed by rotary evaporation to yield a tan oil which solidified on trituration with methylcyclohexane to give a white solid (6.4 g, 59%, m.p. 53°-56° C.).

reactant | NaOH | 0.068 mol, 2.7 g | [OH-].[Na+]
reactant | 2-(4-hydroxyphenoxy)propionic acid | OC1=CC=C(OC(C(=O)O)C)C=C1 | C9H10O4
reactant | 5-Chloro-2,3-difluoropyridine | 0.033 mol, 5.0 g | ClC=1C=C(C(=NC1)F)F | C5H2ClF2N
reactant | p-toluene sulfonic acid | 0.003 mmol, 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methylcyclohexane | CC1CCCCC1 | C7H14
solvent | DMSO | 55 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(4-(3-FLUORO-5-CHLORO-2-PYRIDINYLOXY)PHENOXY)PROPIONIC ACID, METHYL ESTER | 6.4 g, 59% | FC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C15H13ClFNO4
